US04377576
5,10-Dihydro-5-[3-pyrrolidino-propionyl]-11H-dibenzo[b,e][1,4]diazepin-11-one
6.3 gm (0.03 mol) of 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one and 3.3 gm (0.036 mol) of acrylic acid chloride were refluxed, while stirring, in 200 ml of toluene for 3 hours. The reaction mixture was then evaporated in vacuo. The dry residue was admixed with 200 ml of ethanol, and 2.5 gm (0.035 mol) of pyrrolidine were added dropwise, while stirring, to the boiling solution. Subsequently, the reaction mixture was heated for 20 minutes, then evaporated in vacuo to about 1/10 of its original volume, and discolored by filtration through activated charcoal/silica gel. The crude product was recrystallized from a little ethyl acetate.

reactant | 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | 0.03 mol, 6.3 gm | C1=CC=CC=2NC3=C(NC(C21)=O)C=CC=C3 | C13H10N2O
reactant | acrylic acid chloride | 0.036 mol, 3.3 gm | C(C=C)(=O)Cl | C3H3ClO
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | pyrrolidine | 0.035 mol, 2.5 gm | N1CCCC1 | C4H9N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 5,10-Dihydro-5-[3-pyrrolidino-propionyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | N1(CCCC1)CCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C20H21N3O2
